US04737496
To a solution of 5.4 g of methyl, 1,3,4,16b-tetrahydro-2-methyl-2H,10H-indolo[2,1-c]pyrazino[1,2-a][1,4]benzodiazepine-16-carboxylate in 100 ml tetrahydrofuran is added 1 g of lithium aluminum hydride in small portions over a 10 minute period maintaining the temperature of the reaction below 25°. On completion of the addition the reaction is heated at reflux temperature for 4 hours. On cooling to room temperature the reaction mixture is quenched by the cautious dropwise addition of 0.65 ml of water, then 0.65 ml 15% NaOH solution followed by 1.95 ml water. The reaction mixture is filtered and the filter cake washed thoroughly with 100 ml of methylene chloride. The filtrate is evaporated to dryness under reduced pressure to yield 1,3,4,16b-tetrahydro-2-methyl-16-hydroxymethyl-2H,10H-indolo[2,1-c]pyrazino[1,2-a][1,4]benzodiazepine as an oil which, after crystallization from ether, has mp 184°-189°.

reactant | 1,3,4,16b-tetrahydro-2-methyl-2H,10H-indolo[2,1-c]pyrazino[1,2-a][1,4]benzodiazepine-16-carboxylate | CN1CC2N(C3=C(CN4C2=C(C=2C=CC=CC24)C(=O)[O-])C=CC=C3)CC1
reactant | lithium aluminum hydride | 1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1,3,4,16b-tetrahydro-2-methyl-16-hydroxymethyl-2H,10H-indolo[2,1-c]pyrazino[1,2-a][1,4]benzodiazepine | CN1CC2N(C3=C(CN4C2=C(C=2C=CC=CC24)CO)C=CC=C3)CC1 | C21H23N3O
